US04178460
Preparation of α-Bromo-4-trifluoromethylthiotoluene
Bromine (20.5 g, 0.13 mol) in 20 ml of carbon tetrachloride is added slowly to a solution of 4-trifluoromethylthiotoluene (29 g, 0.15 mol) in 90 ml of carbon tetrachloride heated to gentle reflux under a 275 W sunlamp. When the addition is complete, the solution is maintained at reflux for one hour. Most of the solvent is removed at atmospheric pressure, then the residue is vacuum distilled. The 15.5 g cut with boiling point 64°-77° C./0.6-0.8 mm is 92% monobromo compound by glc.

reactant | Bromine | 0.13 mol, 20.5 g | BrBr | Br2
reactant | 4-trifluoromethylthiotoluene | 0.15 mol, 29 g | FC(SC1=CC=C(C=C1)C)(F)F | C8H7F3S
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-Bromo-4-trifluoromethylthiotoluene | BrCC1=CC=C(C=C1)SC(F)(F)F | C8H6BrF3S
